US06664247B2
The above prepared (2-chloro-6-phenyl-pyrimidin-4-yl)-(5-methyl-2H-pyrazol-3-yl)-amine (60 mg, 0.21 mmol) is combined with 4-acetamidothiophenol (176 mg, 1.05 mmol) in tert-butanol (5 mL) and the mixture heated at reflux for 20 hours. The reaction mixture is cooled to room temperature and partitioned between ethyl acetate and aqueous NaHCO3. The organic layer is washed with brine, dried over MgSO4 and concentrated in vacuo. The resulting residue is purified by flash chromatography (SiO2, DCM/MeOH gradient) to afford [2-(4-acetamido-phenylsulfanyl)-6-phenyl-pyrimidin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine (74 mg, 85%)

reactant | (2-chloro-6-phenyl-pyrimidin-4-yl)-(5-methyl-2H-pyrazol-3-yl)-amine | 0.21 mmol, 60 mg | ClC1=NC(=CC(=N1)NC=1NN=C(C1)C)C1=CC=CC=C1 | C14H12ClN5
reactant | 4-acetamidothiophenol | 1.05 mmol, 176 mg | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
solvent | tert-butanol | 5 mL | C(C)(C)(C)O | C4H10O
product | [2-(4-acetamido-phenylsulfanyl)-6-phenyl-pyrimidin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | 74 mg, 85% | C(C)(=O)NC1=CC=C(C=C1)SC1=NC(=CC(=N1)NC=1NN=C(C1)C)C1=CC=CC=C1 | C22H20N6OS
